US05420276
Step 7: 5'-O-(t-Butyldimethylsilyl)-2',3'-dideoxy-3'-diazo-2'-oxo-uridine
5'-O-(t-Butyldimethylsilyl)-2',3'-dideoxy-3'-(N,N-dimethylamino-methylene)-2'-oxo-uridine (1.78 g, 4.5 mmol), from Step 6, was added to the trifluoromethanesulfonyl azide solution and the reaction mixture was heated at 60° C. for 2.5 h under a nitrogen atmosphere. The solvents were evaporated in vacuo to a syrup (2.8 g) which was dissolved in 10 mL of methylene chloride and purified by flash chromatography (5 psi) on a silica gel column (2×35 cm) eluted with 200 mL of methylene chloride, 200 mL of 1% methanol in methylene chloride, 200 mL of 2% methanol in methylene chloride and 3% methanol in methylene chloride to give 1.27 g (77% yield) of the title compound. MS DCI: 367 (M+H)+.

reactant | 5'-O-(t-Butyldimethylsilyl)-2',3'-dideoxy-3'-(N,N-dimethylamino-methylene)-2'-oxo-uridine | 4.5 mmol, 1.78 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C(C([C@@H](O1)N1C(=O)NC(=O)C=C1)=O)=CN(C)C | C18H29N3O5Si
reactant | trifluoromethanesulfonyl azide | FC(S(=O)(=O)N=[N+]=[N-])(F)F | CF3N3O2S
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5'-O-(t-Butyldimethylsilyl)-2',3'-dideoxy-3'-diazo-2'-oxo-uridine | 1.27 g, 77% yield | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C(C([C@@H](O1)N1C(=O)NC(=O)C=C1)=O)=[N+]=[N-] | C15H22N4O5Si
